US08580798B2
1-(6-tert-Butylpyrimidin-4-yl)-3-[4-(2-cyanopyridin-4-yloxy)-2-fluorophenyl]urea
To a solution of 6-amino-4-tert-butylpyrimidine (150.0 mg; 0.99 mmol) in anhydrous 1,2-dichloroethane (1.9 mL) was added 1,1′-carbonyldi(1,2,4-triazole) (195.4 mg, 1.19 mmol, 1.2 eq), and the reaction mixture was stirred at 65° C. for 3 days. A solution of 4-(4-amino-3-fluorophenoxy)pyridine-2-carbonitrile (227.4 mg; 0.99 mmol, 1.0 eq) in anhydrous 1,2-dichloroethane (1.9 mL) was then added, and the reaction mixture was heated at 65° C. for 5 h. The reaction was diluted with EtOAc, and the organic layer was washed with water and brine, dried over sodium sulfate, and evaporated under reduced pressure to give a crude oil. Trituration from DCM afforded the title compound (211 mg, 52%) as a white solid. 1H-NMR (DMSO-d6) δ 10.37 (broad s, 1H), 10.08 (broad s, 1H), 8.75 (d, J=1.2 Hz, 1H), 8.59 (d, J=5.4 Hz, 1H), 8.25 (t, J=9.3 Hz, 1H), 7.73 (d, J=2.7 Hz, 1H), 7.59 (s, 1H), 7.37 (dd, J=12.0, 2.7 Hz, 1H), 7.24 (dd, J=5.4, 2.4 Hz, 1H), 7.08 (ddd, J=9.0, 2.7, 1.5 Hz, 1H), 1.26 (s, 9H); LC-MS m/z 407 [M+H]+, RT=3.17 min.

reactant | 6-amino-4-tert-butylpyrimidine | 0.99 mmol, 150.0 mg | NC1=CC(=NC=N1)C(C)(C)C | C8H13N3
reactant | 1,1′-carbonyldi(1,2,4-triazole) | 1.19 mmol, 195.4 mg, 1.2 eq | C(=O)(N1N=CN=C1)N1N=CN=C1 | C5H4N6O
reactant | 4-(4-amino-3-fluorophenoxy)pyridine-2-carbonitrile | 0.99 mmol, 227.4 mg, 1.0 eq | NC1=C(C=C(OC2=CC(=NC=C2)C#N)C=C1)F | C12H8FN3O
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | 1,2-dichloroethane | 1.9 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 1.9 mL | ClCCCl | C2H4Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(6-tert-Butylpyrimidin-4-yl)-3-[4-(2-cyanopyridin-4-yloxy)-2-fluorophenyl]urea | 211 mg, 52% | C(C)(C)(C)C1=CC(=NC=N1)NC(=O)NC1=C(C=C(C=C1)OC1=CC(=NC=C1)C#N)F | C21H19FN6O2
